US04636516
A mixture of 0.7 g of thioformamide, 3.4 g of 4-(2-bromopropionyl)-2,6-di-tert-butylphenol, and 15 ml of absolute ethanol was heated to 50°-60° C. for 2-3 hours. After cooling, the reaction mixture poured into a diluted aqueous solution of potassium carbonate. The precipitates thus formed were recovered by filtration and recrystallized from a mixture of cyclohexane and hexane to provide 1.2 g of 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylthiazole.

reactant | thioformamide | 0.7 g | C(=S)N | CH3NS
reactant | 4-(2-bromopropionyl)-2,6-di-tert-butylphenol | 3.4 g | BrC(C(=O)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)C | C17H25BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 4-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methylthiazole | 1.2 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1N=CSC1C | C18H25NOS
